### PR TITLE
Comment Reynolds proof that excluded middle implies proof-irrelevance

### PR DESCRIPTION
**Pull request by VincentSe**

### CODE REVIEW

File: Log_Rel1.v [hunk 1]
```diff
@@ -81,10 +94,64 @@ Qed.
 
 Section logical_relation.
 
-Definition exp (A : Prop) (R : Rel A) (B : Prop) (S : Rel B) :
-  Rel (A -> B) := fun f g : A -> B => forall x y : A, R x y -> S (f x) (g y).
-
+(* exp R S is mostly used on setoids (A,R),(B,S) where R and S are partial
+   equivalence relations. exp R S is then the extensional equality for functions
```
Comment (herbelin) [inline Log_Rel1.v]: It is common in mathematical text to avoid starting a sentence with a formal expression.
```suggestion
   equivalence relations. Then, exp R S is the extensional equality for functions
```
To distinguish it from the natural language text, a possibility would be to write `[exp R S]` which coqdoc would output as if a Coq code. However, that would become contagious if all Coq references were surrounded by brackets, so better not at the end.

File: Log_Rel1.v [hunk 2]
```diff
@@ -81,10 +94,64 @@ Qed.
...
+   in A -> B: for all equal inputs, the functions produce equal outputs.
+   The erasure of irreflexive elements for exp R S is very elegant:
+   it means we only consider functions f : A -> B that respect relations R,S,
+   as expected for the quotients (A,R) and (B,S). *)
+Definition exp (A : Prop) (R : Rel A) (B : Prop) (S : Rel B) (f g : A -> B) : Prop :=
+  forall x y : A, R x y -> S (f x) (g y).
+
+(* power R is mostly used on a setoid (A,R), where R is a partial equivalence
+   relation. power R is then the extensional equality on the powerset
```
Comment (herbelin) [inline Log_Rel1.v]:
```suggestion
   relation. Then, power R is the extensional equality on the powerset
```

File: Reynolds1.v [hunk 3]
```diff
@@ -31,51 +31,153 @@
...
+(* This proves that the axioms defined in Log_Rel1.v are contradictory.
+   This specializes the refutation by Reynolds of set semantics for System F:
+   John Reynolds. Polymorphism is not set-theoretic.
+   [Research Report] RR-0296, INRIA. 1984. inria-00076261
+   https://hal.inria.fr/inria-00076261/document
+
+   Here System F is replaced by Coq's universe Prop. This makes sense because
+   Prop is impredicative like System F, and Prop can interpret all of System F's
+   syntax. For example the forall type alpha in System F is replaced by
+   forall alpha:Prop. In his article Reynolds writes B for Bool, and it is
```
Comment (herbelin) [inline Reynolds1.v]:
```suggestion
   forall alpha:Prop. In his article, Reynolds writes B for Bool, and it is
```

File: Reynolds1.v [hunk 4]
```diff
@@ -31,51 +31,153 @@
...
-
+  fun (A : Prop) (f : PHI A -> A) => f (phi A0 A (A0_ind f) z).
+
+Lemma A0_morph_alg : forall {X : Prop} (f : PHI X -> X) (u : PHI A0),
+    A0_ind f (intro u) = f (phi _ _ (A0_ind f) u).
+Proof. reflexivity. Qed.
+
+(* By Lambek's theorem, intro : PHI A0 -> A0 is an isomorphism in the category Prop
+   (or System F). In other words, A0 is the least fixed point of functor PHI.
+   The inverse morphism teta is obtained by considering the algebra
```
Comment (herbelin) [inline Reynolds1.v]: If you want, that may be an opportunity to fix the spelling of teta.

File: Reynolds1.v [hunk 5]
```diff
@@ -31,51 +31,153 @@
...
+   equivalence relation E0 on A0, which turns A0 into a setoid. In other words,
+   our set denotation of A0 is a quotient of A0. intro and teta induce quotient
+   maps that are truly inverse from each other. In the quotient, all morphisms
+   from A0 to any other PHI-algera are equalized, which turns the preinitial algebra
+   into an initial algebra.
+
+   Here is a synthesis of our set semantics, for all objects involved in the
+   contradiction
+   ----------------------------------------
+      System F  |      Set denotation
```
Comment (herbelin) [inline Reynolds1.v]:
```suggestion
System F        | Set denotation     
```

File: Reynolds1.v [hunk 6]
```diff
@@ -213,21 +279,35 @@ change
...
+intros x3 x4 h2.
+apply id_teta_intro, x4.
 Qed.
 
-Definition f0 (x y : A0 -> Bool) := I (F0 x y).
+(* We now have an initial PHI-algebra in the category of sets, i.e. a bijection
+   between sets (A0, E0) and (PHI A0, phi2 E0). This leads to a contradiction,
+   because Cantor's theorem now applies and tells that the powerset of (A0, E0)
+   is strictly bigger than (A0, E0). (PHI A0, phi2 E0) is the powerset of the
+   powerset of (A0, E0), hence bigger still.
```
Comment (herbelin) [inline Reynolds1.v]:
```suggestion
   powerset of (A0, E0), hence even bigger.
```
??

File: Reynolds1.v [hunk 7]
```diff
@@ -120,75 +221,40 @@ Qed.
...
-apply h5.
-exact h7.
-apply h6.
-eapply h2.
-instantiate ( 1 := x0) in |- *.
-apply h1.
-exact h7.
-exact h7.
+apply power_per, per_F0.
 Qed.
```
Comment (herbelin) [inline Reynolds1.v:229]: By curiosity, are these simplifications of what eventually gives the same proof-term or a different proof-term?

**Review by herbelin — APPROVED** [review]
You went much further in the understanding of the proof than I ever did. Thanks a lot.

Prosaically, I believe it might be worth to actually use coqdoc comments `(** ` in place of `(*` comments.

File: Reynolds1.v (hunk 7 above)
Comment (VincentSe) [reply Reynolds1.v:229]: I do not know, I didn't read the previous proofs :-)

File: Reynolds1.v (hunk 4 above)
Comment (VincentSe) [reply Reynolds1.v]: I will rename both intro and teta as A0_cons and A0_match. They are the constructor and destructor of type A0.

File: Reynolds1.v (hunk 7 above)
Comment (herbelin) [reply Reynolds1.v:229]: OK, anyway, even with a different proof, the resulting proof need eventually to have the form of a "fixpoint".
